US07659394B2
(S)-2-[(S)-Phenyl-(2-pyridin-4-yl-phenoxy)-methyl]-morpholine was synthesized from 6-[(2-Bromo-phenoxy)-phenyl-methyl]-morpholin-3-one and 4-pyridineboronic acid according to general procedures A and B and was isolated as a thick viscous gum. 1H NMR (CDCl3) δ: 8.65 (d, 2H), 7.60 (d, 2H), 7.32-7.18 (m, 7H), 6.96 (m, 1H), 6.90 (d, 1H), 5.10 (d, 1H), 3.93 (d, 1H), 3.80 (m, 1H), 3.60 (m, 1H), 2.75 (m, 2H), 2.48 (m, 2H), 1.80 (br s, 1H). MS (ES) m/z 347.08 [C22H22N2O2+H]+. Analysis: Calcd for C22H22N2O2:0.5H2O: C, 74.34; H, 6.52; N, 7.88. Found: C, 74.15; H, 6.84; N, 7.37.

reactant | 6-[(2-Bromo-phenoxy)-phenyl-methyl]-morpholin-3-one | BrC1=C(OC(C2OCC(NC2)=O)C2=CC=CC=C2)C=CC=C1 | C17H16BrNO3
reactant | 4-pyridineboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (S)-2-[(S)-Phenyl-(2-pyridin-4-yl-phenoxy)-methyl]-morpholine | C1(=CC=CC=C1)[C@@H]([C@@H]1CNCCO1)OC1=C(C=CC=C1)C1=CC=NC=C1 | C22H22N2O2
